US07405300B2
2-Chloro-1-phenyl-1,3-dihydropyrrolo[2,3-b]pyridine-3-carboxaldehyde is reacted with piperazine as described in Example 2 to give 1-phenyl-2-(piperazin-1-yl)-1,3-dihydropyrrolo[2,3-b]pyridine-3-carboxaldehyde (63% yield).

reactant | 2-Chloro-1-phenyl-1,3-dihydropyrrolo[2,3-b]pyridine-3-carboxaldehyde | ClC1C(C=2C(=NC=CC2)N1C1=CC=CC=C1)C=O | C14H11ClN2O
reactant | piperazine | N1CCNCC1 | C4H10N2
product | 1-phenyl-2-(piperazin-1-yl)-1,3-dihydropyrrolo[2,3-b]pyridine-3-carboxaldehyde | 63% yield | C1(=CC=CC=C1)N1C(C(C=2C1=NC=CC2)C=O)N2CCNCC2 | C18H20N4O
